US07115611B2
154 mg (0.307 mmol) of [rac]-(4-{1-[4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-ethoxy}-2-methyl-phenoxy)-acetic acid ethyl ester and 0.62 ml 1N LiOH in 1.6 ml THF were stirred for 2 h at RT. The reaction mixture was taken up in ether and washed with 1N HCl and water. The crude product was suspended in AcOEt/heptane 1:19 and the resulting crystals were filtered off to give 125 mg of pure [rac]-(4-{1-[4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-ethoxy}-2-methyl-phenoxy)-acetic acid.

reactant | [rac]-(4-{1-[4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-ethoxy}-2-methyl-phenoxy)-acetic acid ethyl ester | 0.307 mmol, 154 mg | C(C)OC(COC1=C(C=C(C=C1)OC(C)C=1C(=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)C1CC1)C)=O | C27H27F3N2O4
reactant | LiOH | 1N, 0.62 ml | [Li+].[OH-]
solvent | THF | 1.6 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | [rac]-(4-{1-[4-cyclopropyl-2-(4-trifluoromethyl-phenyl)-pyrimidin-5-yl]-ethoxy}-2-methyl-phenoxy)-acetic acid | 125 mg | C1(CC1)C1=NC(=NC=C1C(C)OC1=CC(=C(OCC(=O)O)C=C1)C)C1=CC=C(C=C1)C(F)(F)F | C25H23F3N2O4
